US08212041B2
tert-butyl (2-chloro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)phenyl)methylcarbamate
A suspension of 4-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline (200 mg, 585 μmol), tert-butyl 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzylcarbamate (323 mg, 878 μmol), dichloro[1,1′bis(diphenylphoshino)ferrocene]palladium(ii)dichloromethane adduct (86 mg, 117 μmol), cesium carbonate (763 mg, 2341 μmol) in dioxane (3 mL) and water (0.3 mL) was sparged with argon for 10 min then heated to 100° C. for 18 h. Reaction then partitioned between 9:1 CHCl3/IPA (50 mL) and 5% NaHCO3 (25 mL). Aqueous further extracted with 9:1 CHCl3/IPA (2×10 mL). Combined organics then dried over MgSO4, concentrated, and purified on silica (40 g) eluting with 0>6% 2M NH3 in MeOH/DCM. Product isolated as an off white solid. 84024-19-2 MS (ESI pos. ion) m/z: 547 (MH+). Calc'd exact mass for C28H27ClN6O4: 546.

reactant | 4-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline | 585 μmol, 200 mg | ClC=1C=CC=2N(N1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C16H12ClN5O2
reactant | tert-butyl 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzylcarbamate | 878 μmol, 323 mg | ClC1=C(CNC(OC(C)(C)C)=O)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C18H27BClNO4
reactant | cesium carbonate | 2341 μmol, 763 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.3 mL | O | H2O
catalyst | dichloro[1,1′bis(diphenylphoshino)ferrocene]palladium(ii)dichloromethane adduct | 117 μmol, 86 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | tert-butyl (2-chloro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)phenyl)methylcarbamate | ClC1=C(C=CC(=C1)C=1C=CC=2N(N1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC)CNC(OC(C)(C)C)=O | C28H27ClN6O4
